US07015236B2
N-Ethoxymethyl-N-(3-methyl-5-isoxazolyl)-4-(trifluoromethyl)nicotinamide (Compound No. 1-51, Step A-2)
N-(3-Methyl-5-isoxazolyl)-4-(trifluoromethyl)nicotinamide (Compound No. 1-2, 107.1 mg, 0.39 mmol) prepared according to Example 1 was dissolved in dimethylformamide (2 ml). To this solution, potassium carbonate (81.4 mg, 0.59 mmol) and bromoacetonitrile (30 μl, 0.43 mmol) were added, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The resulting residue was purified by thin layer chromatography (a developing solvent: hexane/ethyl acetate=1/1) to obtain the title compound (91.3 mg, yield 75%).

reactant | N-(3-Methyl-5-isoxazolyl)-4-(trifluoromethyl)nicotinamide | 0.39 mmol, 107.1 mg | CC1=NOC(=C1)NC(C1=CN=CC=C1C(F)(F)F)=O | C11H8F3N3O2
reactant | potassium carbonate | 0.59 mmol, 81.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 0.43 mmol, 30 μl | BrCC#N | C2H2BrN
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-Ethoxymethyl-N-(3-methyl-5-isoxazolyl)-4-(trifluoromethyl)nicotinamide | 91.3 mg, yield 75% | C(C)OCN(C(C1=CN=CC=C1C(F)(F)F)=O)C1=CC(=NO1)C | C14H14F3N3O3
